US09376422B2
Step 4: methyl 5-bromo-2-methyl-3((1-methylpiperidin-4-yl)amino)benzoate
To a stirred solution of methyl 3-amino-5-bromo-2-methylbenzoate (2 g, 8.23 mmol) and 1-methylpiperidin-4-one (1.86 g, 16.46 mmol) in methanol (20 mL), acetic acid (0.5 g, 8.23 mmol) was added and reaction stirred at room temperature for 3 h. Then sodium cyanoborohydride (0.622 g, 9.87 mmol) was added and reaction stirred overnight. On completion, solvent was removed under reduced pressure and crude material was purified by column chromatography to afford the desired compound (0.9 g, 33%).

reactant | methyl 3-amino-5-bromo-2-methylbenzoate | 8.23 mmol, 2 g | NC=1C(=C(C(=O)OC)C=C(C1)Br)C | C9H10BrNO2
reactant | 1-methylpiperidin-4-one | 16.46 mmol, 1.86 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | 8.23 mmol, 0.5 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 9.87 mmol, 0.622 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | methyl 5-bromo-2-methyl-3((1-methylpiperidin-4-yl)amino)benzoate | 0.9 g, 33% | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCN(CC1)C | C15H21BrN2O2
